US07012066B2
To a chilled solution of the commercially available Fmoc-norvaline (25 g, 73.75 mmol) in anhydrous methanol (469 ml) was added thionyl chloride (53.76 ml, 737.5 mmol) over one hour. TLC in ethylacetate taken an hour later confirmed the completion of the reaction (Rf=0.85). The reaction mixture was concentrated and the remaining residue was dissolved in ethylacetate. The organic layer was washed with several 200 ml portions of saturated sodium bicarbonate followed by brine. The organic layer was dried, filtered and concentrated to afford Fmoc-norVal-OMe) as a white solid (26.03 g) in quantitative yield. NMR δ ppm (CD3OD): 7.7 (m, 2H), 7.6 (m, 2H), 7.4 (m, 2H), 7.3 (m, 2H), 4.3 (m, 2H), 4.1 (m, 2H), 3.7 (s, 3H), 1.7 (m, 1H), 1.6 (m, 1H), 1.4 (m, 2H), 0.95 (t, 3H).

reactant | Fmoc-norvaline | 73.75 mmol, 25 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCC)C(=O)O | C20H21NO4
reactant | thionyl chloride | 737.5 mmol, 53.76 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 469 ml | CO | CH4O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Fmoc-norVal-OMe | quantitative yield | N([C@@H](CCC)C(=O)OC)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
